US06166015
1-Benzyl-5-oxo-pyrrolidine-3-carboxylic acid amide (22 g, 0.1 mol) was added portionwise to a stirred solution of lithium aluminum hydride (9.5 g, 0.25 mol, 2.5 equiv.) in dry tetrahydrofuran (600 mL). After the initial effervescence had subsided, the reaction mixture was heated at reflux at room temperature for 24 h, at which time analysis of the reaction mixture by LCMS showed there was no starting material. The reaction mixture was quenched by dropwise addition of saturated sodium sulphate solution with stirring until no further effervescence was observed. The suspension was filtered through a celite plug, eluting with diethyl ether (200 mL). The solvent was remove to afford 3-(RS)-aminomethyl-1-benzylpyrrolidine as an oil (14.7 g) which was used directly without further purification.

reactant | 1-Benzyl-5-oxo-pyrrolidine-3-carboxylic acid amide | 0.1 mol, 22 g | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)N | C12H14N2O2
reactant | lithium aluminum hydride | 0.25 mol, 9.5 g, 2.5 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 3-(RS)-aminomethyl-1-benzylpyrrolidine | 14.7 g | NCC1CN(CC1)CC1=CC=CC=C1 | C12H18N2
